US04977277
2-Pyridylacetylleucine Methyl Ester.
Prepared from L-leucine methyl ester HCl and 2-pyridylacetic acid according to the procedure from Example 14.

reactant | L-leucine methyl ester HCl | Cl.COC([C@@H](N)CC(C)C)=O
reactant | 2-pyridylacetic acid | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
product | 2-Pyridylacetylleucine Methyl Ester | COC([C@@H](NC(CC1=NC=CC=C1)=O)CC(C)C)=O | C14H20N2O3
